Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Sulfa (Sulfonamide Antibiotics)
 
Attending: ___
 
Chief Complaint:
Transient L arm clumsiness
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
The pt is a ___ year-old R-handed F w/ PMH of cardiac valve 
replacement in ___, previous Afib on Coumadin in ___ (no 
longer taking due to arrhythmia resolved), CHF, HLD, and prior 
spinal fractures s/p kyphoplasty who presented with transient 
neurologic deficits including blurry vision and L ataxia. Hx 
obtained from pt and daughter at bedside. 

Pt reports that during the day she was at her local ___ 
___ when she began to feel excessively fatigued. She left and 
started walking towards her car to drive home when she has 
sudden onset of blurred vision and feeling that she may pass 
out. She sat down in her car and noticed her L arm felt clumsier 
than normal, with difficulty grasping the steering wheel. After 
approximately 15 minutes, the visual changes resolved and her 
fatigue improved somewhat, prompting her to drive home despite 
continued difficulties with L arm. Upon arriving home, she ate a 
sandwich and noticed significant tightness in her L elbow 
alongside her clumsiness, with both findings resolving over the 
next half hour. Denies any associated weakness, numbness, 
headache, double vision, f/c, n/v, or other focal neurologic 
deficit.

Her daughter called her at home and after hearing the pt's story 
contacted her sister. They both recommended her mother be 
evaluated and she was taken to ___. While there, she 
underwent laboratory workup that was reportedly unremarkable as 
well as CT/MRI imaging that showed no apparent stroke but did 
show new subdural bleeding. She was subsequently transferred to 
___ for further evaluation. 

Of note, pt endorses previous history of Atrial Fibrillation for 
which she was treated with Coumadin. This medication was stopped 
in ___ because per pt she no longer was seen to have any Afib. 
Despite resolution of her symptoms at this time, pt endorses new 
sensation of "gnawing" pain in b/l frontal areas, non-radiating, 
rated as ___ in severity. She also notes having sustained a 
fall 2 weeks ago where she hit her head against a wall. 

While in ___ ED, pt was provided Tylenol for pain and 
Ceftriaxone for presumed UTI from +UA. 

Neuro ROS negative except as noted above

General ROS negative except as noted above
 
Past Medical History:
Two fractured vertebrae s/p kyphoplasty in spine in ___ in ___
Fall 2 weeks ago
Cardiac Valve replacement in ___ 
Previous Afib in ___ on Coumadin (stopped due to no new events 
of Afib)
CHF, previously on Lasix
Hyperlipidemia
Cataracts
 
Social History:
___
Family History:
Mother-CAD

 
Physical ___:
Admission Physical Exam:
Vitals: T: 97.6 P: 72 BP: 144/80 RR: 6 O2sat: 96% RA
General: Awake, cooperative, NAD, elderly Caucasian female.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in 
oropharynx
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: Lungs CTA bilaterally without R/R/W
Cardiac: RRR, nl. S1S2, no M/R/G noted
Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or 
organomegaly noted.
Extremities: No C/C/E bilaterally, 2+ radial, DP pulses 
bilaterally.
Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Alert, oriented to person, place, and date. Able 
to relate history without difficulty. Attentive, able to name 
___ although difficulty with MOYB. Language is fluent with 
intact repetition and comprehension. Normal prosody. There were 
no paraphasic errors. Pt was able to name both high and low 
frequency objects.  Speech was not dysarthric. Able to follow 
both midline and appendicular commands. Pt was able to register 
3 objects and recall ___ at 5 minutes. There was no evidence of 
apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  ___ 4 to 2mm and brisk. EOMI without 
nystagmus. Normal saccades. VFF to confrontation. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Decreased bulk, normal tone throughout. No pronator 
drift bilaterally.
No adventitious movements, such as tremor, noted. No asterixis 
noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5   5
R  5    ___   ___  5   5    5  5     5     5   5

-Sensory: No deficits to light touch, pinprick, cold sensation, 
vibratory sense, proprioception throughout. No extinction to 
DSS.

-DTRs:
  Bi Tri ___ Pat Ach
L  3  3    2    3   1
R  3  3    2    3   1
Plantar response was flexor on L, mute on R.

-Coordination: No intention tremor or dysdiadochokinesia noted. 
No dysmetria on FNF or HKS bilaterally.

-Gait: Deferred.

Discharge Exam: 
MS anxious, fluent CN ___, no droop, sensory: no changes to LT 
or PP, Motor mild left pronation with no drift, 4+/5 left 
triceps and hamstring. Mild dysmetria with FNF appears in 
proportion to weakness.  
 
Pertinent Results:
___ 12:15PM BLOOD WBC-7.7 RBC-3.33* Hgb-10.7* Hct-31.9* 
MCV-96 MCH-32.1* MCHC-33.5 RDW-11.3 RDWSD-39.6 Plt ___
___ 01:27AM BLOOD WBC-9.2 RBC-3.45* Hgb-11.2 Hct-33.3* 
MCV-97 MCH-32.5* MCHC-33.6 RDW-11.3 RDWSD-39.8 Plt ___
___ 12:15PM BLOOD Neuts-69.0 ___ Monos-7.9 Eos-0.9* 
Baso-0.5 Im ___ AbsNeut-5.32 AbsLymp-1.64 AbsMono-0.61 
AbsEos-0.07 AbsBaso-0.04
___ 01:27AM BLOOD Neuts-73.7* Lymphs-15.5* Monos-9.2 
Eos-0.7* Baso-0.4 Im ___ AbsNeut-6.79* AbsLymp-1.43 
AbsMono-0.85* AbsEos-0.06 AbsBaso-0.04
___ 12:15PM BLOOD ___ PTT-31.4 ___
___ 01:27AM BLOOD ___ PTT-30.6 ___
___ 12:15PM BLOOD Glucose-181* UreaN-10 Creat-0.6 Na-130* 
K-3.6 Cl-96 HCO3-25 AnGap-13
___ 01:27AM BLOOD Glucose-95 UreaN-10 Creat-0.7 Na-133 
K-3.9 Cl-98 HCO3-23 AnGap-16
___ 12:15PM BLOOD ALT-7 AST-13 LD(LDH)-207 CK(CPK)-53 
AlkPhos-68 TotBili-0.6
___ 01:27AM BLOOD ALT-7 AST-15 AlkPhos-75 TotBili-0.8
___ 12:15PM BLOOD CK-MB-2 cTropnT-<0.01 proBNP-1384*
___ 12:15PM BLOOD TotProt-5.8* Albumin-3.6 Globuln-2.2 
Calcium-8.6 Phos-2.6* Mg-1.8 Cholest-142
___ 01:27AM BLOOD Albumin-3.9 Calcium-8.9 Phos-2.9 Mg-1.9
___ 12:15PM BLOOD Triglyc-56 HDL-76 CHOL/HD-1.9 LDLcalc-55
___ 12:15PM BLOOD %HbA1c-4.8 eAG-91
___ 12:15PM BLOOD TSH-0.83
___ 12:15PM BLOOD CRP-74.9*

MRI with no evidence of acute stroke but does show bilateral 
hygromas with small subacute SDH on right
 
Brief Hospital Course:
Ms. ___ is an ___ with history of bioprosthetic valve not 
on anticoagulation who presented to the ED at OSH after 15 
minute episode of left arm heaviness and blurry vision which 
self-resolved. MRI, MRA and NCHCT were obtained which revealed
bilateral hygromas and a small subacute component of SDH on the 
right but no evidence of acute stroke. Her symptoms were likely 
from fluid shifts and depolarization around the area of SDH, TIA 
thought to be less likely. 
- her case was discussed with neurosurgery, she should follow up 
with them in 1 month with repeat NCHCT to ensure the bleeding is 
stable, she was given the phone numbers to schedule these 
- she was anticoagulated for AFIB in the past, this should be 
restarted once it is safe regarding the SDH, we would recommend 
apixaban 5mg BID but will defer to neurosurgery on the timing 
- we sent her with a prescription of macrobid to treat her UTI
- ___ evaluated her and said home with no services 

 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. PredniSONE 2.5 mg PO DAILY 
2. Simvastatin 10 mg PO QPM 
3. Hydroxychloroquine Sulfate 400 mg PO DAILY 
4. Potassium Chloride 40 mEq PO DAILY 

 
Discharge Medications:
1.  Nitrofurantoin Monohyd (MacroBID) 100 mg PO Q12H Duration: 6 
Days 
RX *nitrofurantoin monohyd/m-cryst 100 mg 1 capsule(s) by mouth 
every twelve (12) hours Disp #*12 Capsule Refills:*0 
2.  Hydroxychloroquine Sulfate 400 mg PO DAILY  
3.  Potassium Chloride 40 mEq PO DAILY  
4.  PredniSONE 2.5 mg PO DAILY  
5.  Simvastatin 10 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
left sided symptoms likely secondary to chronic hygromas 
urinary tract infection 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms ___, 

You were admitted with left sided symptoms of clumsiness and 
weakness. Your MRI was negative for stroke. We think that your 
symptoms are a result of pressure from fluid collections known 
as hygromas likely from head injury in the past. You will need 
to see neurosurgery in one month to ensure that these fluid 
collections have not changed.  Once they are stable, we would 
like you to restart anticoagulation with a medication known as 
eliquis to prevent possible stroke from your irregular heart 
beat (atrial fibrillation). We have also given you a 
prescription for an antibiotic to treat your urinary tract 
infection. You were evaluated by ___ who recommended that you 
were safe to return home at this time with no additional therapy 
or services. 

It was a pleasure taking care of you. 

___ Neurology 
 
Followup Instructions:
___